US05654316
3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-(4-methoxyphenyl)-benzenepropanamide
3,4-Dichloro-beta-[2-[(4-methoxyphenyl)methylamino]-2-oxoethyl]benzenepropanoic acid (7.2 g) in EtOAc (125 mL) was treated with carbonyldiimidazole (4.4 g) and N,N-dimethylaminopyridine (0.22 g). The resulting solution was stirred at room temperature for 15 minutes and then heated at 50° C. for one hour. The reaction mixture was cooled to 0° C. and treated with a solution of NaBH4 (4.46 g) in H2O (75 mL), warmed slowly to room temperature and stirred for 12 hours. The reaction mixture was then diluted with EtOAc (100 mL) and washed with H2O (100 mL), 1N HCl (100 mL), and H2O (100 mL). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. Silica gel chromatography eluting with 60-100% EtOAc/hexane gave the title compound (5.43 g).

reactant | 3,4-Dichloro-beta-[2-[(4-methoxyphenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 7.2 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)NCC1=CC=C(C=C1)OC | C19H19Cl2NO4
reactant | carbonyldiimidazole | 4.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NaBH4 | 4.46 g | [BH4-].[Na+]
reactant | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 75 mL | O | H2O
product | 3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-(4-methoxyphenyl)-benzenepropanamide | 5.43 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)OC)C)CCO | C19H21Cl2NO3
